US08097628B2
(a) Methyl 5,6-dimethyl-3-pyridinecarboxylate
To a mixture of methyl 5-bromo-6-chloro-3-pyridinecarboxylate (595 mg, 2.375 mmol), tetrakis(triphenylphosphine)palladium (0) (275 mg, 0.238 mmol) and K2CO3 (492 mg, 3.56 mmol) in dioxane (6.5 ml), trimethylboroxin (1.328 ml, 9.50 mmol) was added under argon. The reaction mixture was heated at 110° C. for 16 h. The reaction mixture was allowed to cool down, filtered through a pad of silica, and concentrated to give 857 mg of the crude material. Purification by flash chromatography using Flashmaster II, a 20 g silica gel cartridge, and mixtures of hexane and EtOAc as eluent afforded 276 mg of desired compound.

reactant | methyl 5-bromo-6-chloro-3-pyridinecarboxylate | 2.375 mmol, 595 mg | BrC=1C=C(C=NC1Cl)C(=O)OC | C7H5BrClNO2
reactant | K2CO3 | 3.56 mmol, 492 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | trimethylboroxin | 9.50 mmol, 1.328 ml | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | dioxane | 6.5 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.238 mmol, 275 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 5,6-dimethyl-3-pyridinecarboxylate | 276 mg | CC=1C=C(C=NC1C)C(=O)OC | C9H11NO2
